US07851473B2
(2) 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyrimidin-4-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyrimidin-4-ylcarbamate (200 mg, 0.739 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (181 mg, 0.739 mmol), diisopropylethylamine (0.258 ml, 1.48 mmol) and dimethylsulfoxide (3 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product. This was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to obtain the desired product (135 mg, 49.8%) as a solid.

reactant | 2,2,2-trichloroethyl pyrimidin-4-ylcarbamate | 0.739 mmol, 200 mg | N1=CN=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.739 mmol, 181 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 1.48 mmol, 0.258 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyrimidin-4-ylpiperazine-1-carboxamide | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=NC=NC=C1 | C18H18N6OS
